Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
bilateral breast cellulitis
 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
HPI: The patient is a ___ female w/PMHx breast cancer status
post neoadjuvant chemotherapy, bilateral mastectomy and silicone
implant based reconstruction in ___, with recurrence detected 
on
MRI in ___, now status post left axillary lymph node biopsy
(3 out of 10 positive) currently undergoing chemotherapy (status
post 1 infusion, initiated 2 weeks ago).  She is presenting with
cellulitis of the bilateral breasts.  On ___ night she
developed redness, swelling, pain, and warmth of the bilateral
breasts, left greater than right, and presented to ___ emergency department.  She waited for quite some time
and was not yet seen, so she left without being seen.  She had
some fevers at home, and then presented to her surgeon's
outpatient office on ___ who gave her Keflex.  She was
supposed to have her second round of chemotherapy on ___,
but when she presented and conveyed her history of recent fevers
and cellulitis, she was redirected to the ___
emergency department.  She then was transferred to the ___ ED
evaluated by plastic surgery.

In the ED: She had been given ampicillin/tazobactam and
vancomycin at the ___ emergency department, and 
noted
a small headache in addition to her breast symptoms.  She was
seen by plastic surgery who recommended an ultrasound to rule 
out
a collection, and ongoing broad-spectrum antibiotics, with
admission to medicine for ongoing her vital signs were notable
for T-max of 99.2 otherwise unremarkable, labs were notable for 
a
WBC 11.2, with a left shift, and were otherwise overall
unremarkable.  Breast ultrasounds on both sides show no fluid
collections.

Seen on the floor, she is doing okay, appears a bit tired, and
notes somewhat of a headache.  Ibuprofen usually works well for
her headaches.  She has a good understanding of her plan of 
care,
and we review her history as noted above.

ROS: [x] As per above HPI, otherwise reviewed and negative in 
all
systems

Primary Care Provider: ___, MD

___ providers: ___ at ___, Dr. ___ 

 
___ Medical History:
PMHx:
#Breast cancer as noted in the HPI -- BRCA+, status post BSO and
neoadjuvant chemotherapy, bilateral mastectomy and silicone
implant based reconstruction in ___, with recurrence detected 
on
MRI in ___, now status post left axillary lymph node biopsy
(3 out of 10 positive) currently undergoing chemotherapy (status
post 1 infusion, initiated 2 weeks ago), chemo = "AC" ("they 
were
planning for rounds of AC and 4 rounds of Taxol)
#Osteoarthritis - knees and hands
#Intermittent migraines
#Possible COPD -  and uses albuterol inhaler occasionally

PSHx:
#Bilateral mastectomy, breast risk reconstruction with silicone
implants ___
#Left axillary lymph node dissection ___
#BSO

 
Social History:
___
Family History:
FHx:
No family history of cellulitis
 
Physical Exam:
Admission Physical Exam:
VS: T 99.8, BP 105/72, HR 74, RR 18, O2 sat 94% on RA
Middle-aged woman lying in bed, alert, cooperative, NAD, 
recently
having eaten some pudding.  Anicteric, MMM.  Equal chest rise,
CTAB posteriorly, no work of breathing, however she does have an
intermittent rare dry cough while I am in the room.  No 
wheezing.
Heart regular, no obvious murmurs rubs or gallops.  Port-A-Cath
in the right upper chest.  Abdomen obese, soft, NT ND. 
Extremities warm and well-perfused.  No urinary drainage system. 

Her bilateral breasts have erythema, which is been marked with a
purple pen, and erythema is within those margins, the right side
is approximately 8 cm x 3 cm left side is approximately 20 cm x 
8
cm, with some mild tenderness to palpation in the 1 o'clock
position on the left side.  No fluctuance to suggest an abscess.

Discharge exam: 
Vitals: Tmax 102.6, afebrile, P ___. 
Gen: Lying in bed in no apparent distress
Cardiovascular: RRR no MRG, nl. S1 and S2
Pulmonary: Lung fields clear to auscultation throughout
Skin: Her bilateral breasts have erythema, significantly 
improved from the previous 2 days, minimal warmth and mild 
erythema residual on left side. No fluctuance to suggest an 
abscess.
 
Pertinent Results:
___ 12:20PM URINE  HOURS-RANDOM
___ 12:20PM URINE  UHOLD-HOLD
___ 12:20PM URINE  COLOR-Straw APPEAR-Clear SP ___
___ 12:20PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-NEG 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-7.0 
LEUK-NEG
___ 09:41AM   LACTATE-1.2
___ 08:59AM   ___ PTT-27.0 ___
___ 06:48AM   GLUCOSE-102* UREA N-6 CREAT-0.7 SODIUM-142 
POTASSIUM-4.3 CHLORIDE-100 TOTAL CO2-19* ANION GAP-23*
___ 06:48AM   estGFR-Using this
___ 06:48AM   ALT(SGPT)-33 AST(SGOT)-18 ALK PHOS-109* TOT 
BILI-0.4
___ 06:48AM   LIPASE-25
___ 06:48AM   ALBUMIN-3.7
___ 06:48AM   WBC-11.2* RBC-4.27 HGB-11.6 HCT-35.6 MCV-83 
MCH-27.2 MCHC-32.6 RDW-13.4 RDWSD-40.2
___ 06:48AM   NEUTS-87* BANDS-1 LYMPHS-9* MONOS-1* EOS-0 
BASOS-2* ___ MYELOS-0 AbsNeut-9.86* AbsLymp-1.01* 
AbsMono-0.11* AbsEos-0.00* AbsBaso-0.22*
___ 06:48AM   HYPOCHROM-NORMAL ANISOCYT-NORMAL 
POIKILOCY-NORMAL MACROCYT-NORMAL MICROCYT-NORMAL 
POLYCHROM-NORMAL
___ 06:48AM   PLT SMR-NORMAL PLT COUNT-200

___ CXR reviewed, shows no acute cardiopulmonary
process, and the port is in good position

 
Brief Hospital Course:
___ woman with past medical history of recurrent breast 
cancer, who is status post bilateral mastectomy and silicone 
implant based reconstruction in ___, who recently received 
chemotherapy 2 weeks ago, admitted with bilateral breast 
cellulitis, left worse than right. 

# Bilateral breast cellulitis, left worse than right, in the 
context of recurrent breast cancer breast status post 
silicone-based reconstruction: she was treated initially with IV 
Vancomycin/Zosyn, with significant improvement in her 
cellulitis. She was narrowed to IV Vancomycin monotherapy, and 
the cellulitis continued to improve. Her WBC improved from 11.5 
to 5.6 on ___, and she was afebrile x48hrs, with negative 
culture data. On ___ she was cleared for discharge back home, 
and will complete 5 more days of PO Keflex therapy (500mg 4x 
daily), for a 7-day total. She will follow-up closely with her 
Breast Surgeon early next week. 

# Tobacco use: has Nicotine patches at home, and is agreeable to 
try quitting smoking on discharge. 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Ibuprofen 400 mg PO Q8H:PRN Pain - Mild 
2. Cephalexin Dose is Unknown  PO Q6H 

 
Discharge Medications:
1.  Cephalexin 500 mg PO Q6H  
2.  Ibuprofen 400 mg PO Q8H:PRN Pain - Mild  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Breast cellulitis, L>R
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
___ were admitted with a skin infection (cellulitis) of your 
breast tissue. ___ were treated with IV antibiotics with 
significant improvement in your symptoms. ___ were seen by 
Plastic Surgery, who recommended staying on IV antibiotics until 
___, but understandably ___ were anxious to go home. ___ will 
be sent home to complete a course of oral antibiotics, it is 
important that ___ complete 5 more days of antibiotics, and that 
___ follow-up very closely with your breast surgeon in ___
 
Followup Instructions:
___